US07696223B2
d) 2-tert-Butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A solution of 2-tert-butyl-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (1 g, 2.3 mmol) in 23 mL of dichloromethane was cooled to 0° C. with an external ice bath and thionyl chloride (253 μL, 3.47 mmol) was added. The ice bath was removed and the reaction was allowed to stir at room temperature for 16 h. Pyridine (500 μL) was added and the mixture was stirred for 5 min before concentrating on silica gel under reduced pressure and purification by column chromatography. The desired product was eluted from silica gel with a gradient of 10-50% ethyl acetate in hexanes to give 363 mg of pale yellow solid. MS (ESI−): m/z 279.3 (M−1).

reactant | 2-tert-butyl-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 2.3 mmol, 1 g | C(C)OC(=O)C1C(C2=C(CN1CC1=C(C=C(C=C1)OC)OC)N=C(S2)C(C)(C)C)=O | C22H28N2O5S
reactant | thionyl chloride | 3.47 mmol, 253 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 23 mL | ClCCl | CH2Cl2
product | 2-tert-Butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 363 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C(C)(C)C)O | C13H16N2O3S
